Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo man with PMHx sig. for 21-hydroxylase 
deficiency and h/o CVA with resultant mental retardation in a 
group home who presents with 4 hours of nausea, vomiting, and 
diarrhea.  He denies any abdominal pain.  Currently he states 
his nausea and vomiting has resolved and he has an appetite.  In 
addition his diarrhea has slowed and is only mild.  he has no 
melena or BRBPR.  He denies any CP, shortness of breath, sick 
contacts, fevers/chills. Rest of ROS is negative.

In the ED, initial VS were: 99 64 141/89 16 98%. Exam was 
notable for LLQ tenderness. Labs were notable for lipase 83. CT 
abdomen showed "1. Moderate colonic diverticulosis without acute 
diverticulitis. 2. Liquid stool throughout the colon and rectum, 
compatible with diarrhea. 3. No SBO. No free air or fluid.
4. Small-to-moderate hiatal hernia. 5. Otherwise, no acute 
intra-abdominal process."  The patient received zofran, 
hydrocort 100 mg, and 2L NS. Vitals prior to transfer to the 
floor were:  115/66, 95, 18, 99RA.  
 
Past Medical History:
1) 21-hydroxylase deficiency.   
2) CVA at ___ of age w/ resultant mental retardation.  
3) h/o diverticulitis since age ___.
4) h/o Guillain ___ syndrome in ___.  
 
Social History:
___
Family History:
(from previous discharge summary ___ Father has AAA.
 
Physical Exam:
VS: afebrile, VSS
GEN: NAD, AOX3
HEENT: MMM, op clear, JVP 8cm
CARD: RRR, no m/r/g
PULM: CTAB 
ABD: soft, NT, ND, no masses or organomegaly
EXT: wwp, no c/c/e
NEURO: grossly normal, AOx3, interactive, ambulatory with normal 
gait
 
Pertinent Results:
___ 12:45AM BLOOD WBC-11.0# RBC-4.81 Hgb-15.3 Hct-43.2 
MCV-90 MCH-31.9 MCHC-35.5* RDW-12.8 Plt ___
___ 12:45AM BLOOD Neuts-80.2* Lymphs-15.1* Monos-3.4 
Eos-1.1 Baso-0.3
___ 12:45AM BLOOD ___ PTT-24.6 ___
___ 12:45AM BLOOD Glucose-123* UreaN-26* Creat-0.9 Na-141 
K-3.4 Cl-104 HCO3-25 AnGap-15
___ 06:32AM BLOOD Glucose-97 UreaN-18 Creat-0.8 Na-138 
K-3.7 Cl-107 HCO3-22 AnGap-13
___ 12:45AM BLOOD Lipase-83*
___ 12:48AM BLOOD Glucose-118* Lactate-2.2* Na-142 K-3.4* 
Cl-105 calHCO3-24

___: 
IMPRESSION: 
1. Fluid in the colon and rectum with mucosal hyperenhancement 
are compatible 
with history of diarrhea and may correlate with mild 
colitis/proctitis. 
2. Diverticulosis without diverticulitis. 
3. Moderate-sized hiatal hernia, increased in size from 
___. 
4. Mildly enlarged prostate with bladder wall thickening may 
represent 
urinary outflow obstruction 

 
Brief Hospital Course:
Mr. ___ was admitted to the ___ Medical service and did 
very well.  He had only 1 loose stool after arriving to the 
floor (after having had several in the ED).  He was supported 
with IVF and stress dose steroids as well as potassium 
repletion.  CT scan showed colitis as well as incidentally noted 
prostatic enlargement.  
.
Stool cultures were without growth.
.
On the of discharge, he was ambulating without difficulty, 
reported he felt fine, had no further loose stool x > 24 hours 
and wished to return home.
.
His case was discussed with the on-call Endocrinologist who 
agreed that 36 hours of IV steroids was likely sufficient for a 
stress dose and that he could be discharged on 1 mg po 
dexamethasone x 1 week and then resume his regular dose of 0.5 
mg po dexamethasone daily.  He should continue his Florinef.
.
He reports he drinks 1 can tomato juice daily and this was 
encouraged for potassium repletion and he was also prescribed 40 
mEq po potassium for ___.
.
Dr. ___ reviewed the case with the patient and 
his mother who reported that she would see to it that the 
medication changes were put into effect, that he would follow up 
with Dr. ___ that he would discuss his maintenance 
dexamethasone dose with Dr. ___ it seems fairly 
high) as well as the incidentally noted prostatic enlargement.
.
At the time of discharge, Mr. ___ was fully ambulatory and 
symptom free.
.

 
Medications on Admission:
dexamethasone 0.5mg po daily
fludrocortisone 0.1mg po daily
 
Discharge Medications:
1. potassium chloride 10 mEq Tablet Extended Release Sig: Four 
(4) Tablet Extended Release PO DAILY (Daily) for 1 doses.
Disp:*4 Tablet Extended Release(s)* Refills:*0*
2. dexamethasone 0.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily) for 7 days: Take this ___ through ___.
Disp:*14 Tablet(s)* Refills:*0*
3. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Viral gastroenteritis 
2) Adrenal insufficiency 
3) h/o CVA at a young age with resultant developemental delay 
4) incidentally noted : "Mildly enlarged prostate with bladder 
wall thickening may represent urinary outflow obstruction." 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with diarrhea that resolved 
very quickly.  You seem to have recovered very nicely.  You have 
received 36 hours of stress dose steroids.  You will be 
discharged on a taper of dexamethasone as recommended by 
Endocrinology.
.
WE have changed your Dexamethasone dosing for the next 2 weeks:
--Take Dexamethasone 1 mg by mouth daily for 1 week ___ through 
___
--Then, go back to your normal schedule - Dexamethasone 0.5 mg
every day
.
***Please continue to take Florinef every day***
 
Followup Instructions:
___